US06921759B2
A mixture of 5-bromo-N-(4-fluorobenzyl)-8-hydroxy-[1,6]naphthyridine-7-carboxamide (2.00 g, 5.33 mmol), tri-n-butylvinyl tin (3.12 mL, 10.70 mmol), bis (triphenylphosphine)palladium(II) chloride (0.75 g, 1.10 mmol), N-Boc-ethylenediamine (4.23 g, 26.6 mmol) in dioxane (50 mL) was purged with nitrogen and heated with stirring at 100° C. in a sealed tube overnight. The resultant product mixture was filtered through a pad of Celite. The filtrate was concentrated under vacuum. The residue was dissolved in DMSO, and subjected to HPLC purification on C-18 stationary phase eluted with water/acetonitrile/TFA mobile phase. Collection and lyophilization of appropriate fractions provided the title N-Boc amino napthyridine.

reactant | 5-bromo-N-(4-fluorobenzyl)-8-hydroxy-[1,6]naphthyridine-7-carboxamide | 5.33 mmol, 2.00 g | BrC1=C2C=CC=NC2=C(C(=N1)C(=O)NCC1=CC=C(C=C1)F)O | C16H11BrFN3O2
reactant | tri-n-butylvinyl tin | 10.70 mmol, 3.12 mL | C(CCC)C(=C(CCCC)CCCC)[Sn]
reactant | N-Boc-ethylenediamine | 26.6 mmol, 4.23 g | C(=O)(OC(C)(C)C)NCCN | C7H16N2O2
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
catalyst | bis (triphenylphosphine)palladium(II) chloride | 1.10 mmol, 0.75 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-Boc amino napthyridine | C(=O)(OC(C)(C)C)NN1CC=CC2=CC=CN=C12 | C13H17N3O2
